US06951868B2
To a stirred solution of acetyl chloride (4.78 mL, 67.1 mmol) in dry CH2Cl2 (20 mL) in a −10° C. bath is added aluminum trichloride (4.76 g, 35.7 mmol) in small portions. The mixture is stirred for 15 min until the solution became homogeneous. The solution is added via canula to a separate solution of chromane (4,79 g, 35.7 mmol) in CH2Cl2 (30 mL) all at −10° C. After complete addition, the solution is stirred at −10° C. for 30 min. The solution is poured over a mixture of crushed ice and concentrated HCl. The mixture is extracted with CH2Cl2. The combined organic layers are washed with brine, dried (MgSO4), filtered and concentrated in vacuo. The remaining residue is purified via crystallization from hexanes to give 4.0 g (64%) of 1-(3,4-dihydro-2H-chromen-6-yl)ethanone as a white solid. 1H NMR (400 MHz, CDCl3) δ7.76-7.73, 6.75, 4.27, 2.86, 2.57, 2.09-2.03.

reactant | acetyl chloride | 67.1 mmol, 4.78 mL | C(C)(=O)Cl | C2H3ClO
reactant | aluminum trichloride | 35.7 mmol, 4.76 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | chromane | 35.7 mmol, 4,79 g | O1CCCC2=CC=CC=C12 | C9H10O
reactant | HCl | Cl | ClH
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 1-(3,4-dihydro-2H-chromen-6-yl)ethanone | 4.0 g, 64% | O1CCCC2=CC(=CC=C12)C(C)=O | C11H12O2
